US07531532B2
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide
To a solution of benzyl (2-fluoro-4-{2-[(4-pyrrolidin-1-ylpiperidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)carbamate (91 mg) in tetrahydrofuran (10 ml) was 10% palladium carbon (36.4 mg), followed by stirring under a hydrogen atmosphere at room temperature for 3.5 hrs. Ethanol (5.0 ml) was added thereto, followed by stirring under a hydrogen atmosphere at room temperature for 1.5 hrs. The reaction mixture was filtered to remove the catalyst, and washed with a small amount of tetrahydrofuran to give a solution of the titled compound in tetrahydrofuran. The solution was concentrated to almost dryness, which was then used for succeeding reactions without further purification.

reactant | benzyl (2-fluoro-4-{2-[(4-pyrrolidin-1-ylpiperidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)carbamate | 91 mg | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCCC1)NC(OCC1=CC=CC=C1)=O | C29H32FN5O4
reactant | Ethanol | 5.0 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 36.4 mg | [C].[Pd]
product | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1)F | C21H26FN5O2
